US06010837
Dodecyl 3-{N-[1-(2-chloro-2,4-dimethylphenyl)-4,5-dihydro-5-oxo-1H-pyrazol-3-yl]-N-acetylamino}-4-methoxybenzoate
Dodecyl 3-{N-[1-(2-chloro-2,4-dimethylphenyl)-4,5-dihydro-5-oxo-1H-pyrazol-3-yl]-amino}-4-methoxy-benzoate (10.5 g, 18.9 mmol) was dissolved in acetyl chloride (50 ml) and acetic anhydride (35 ml) and the solution was heated under reflux for 1.5 hrs. The solution was cooled, then it was slowly poured into ice/water (750 ml) and the resulting sticky solid was extracted with ethyl acetate (2×100 ml). The combined extracts were dried (MgSO4) and evaporated to give an oil. Sodium hydroxide (0.8 g, 18.9 mmol) was added to a solution of the oil in methanol (80 ml) and the mixture was stirred at room temperature for 4 hrs. The solution was poured slowly into 3N hydrochloric acid (500 ml), the aqueous liquor was decanted off and the residue was dissolved in ethyl acetate (100 ml). The organic solution was dried (MgSO4) and evaporated to give a glass. The crude material was recrystallized from methanol (50 ml) to give pure product as a white solid, 5.8 g, 51%.

reactant | Dodecyl 3-{N-[1-(2-chloro-2,4-dimethylphenyl)-4,5-dihydro-5-oxo-1H-pyrazol-3-yl]-amino}-4-methoxy-benzoate | 18.9 mmol, 10.5 g | ClC1(C(C=CC(=C1)C)N1N=C(CC1=O)NC=1C=C(C(=O)OCCCCCCCCCCCC)C=CC1OC)C | C31H44ClN3O4
reactant | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium hydroxide | 18.9 mmol, 0.8 g | [OH-].[Na+]
reactant | hydrochloric acid | 3N, 500 ml | Cl | ClH
solvent | acetyl chloride | 50 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 80 ml | CO | CH4O
product | Dodecyl 3-{N-[1-(2-chloro-2,4-dimethylphenyl)-4,5-dihydro-5-oxo-1H-pyrazol-3-yl]-N-acetylamino}-4-methoxybenzoate | ClC1(C(C=CC(=C1)C)N1N=C(CC1=O)N(C(C)=O)C=1C=C(C(=O)OCCCCCCCCCCCC)C=CC1OC)C | C33H46ClN3O5
